US04208327
To a solution of 25 parts of N-[(2,2,2-trichloroethoxy)carbonyl]glycine in 250 parts by volume of toluene is added dropwise with stirring 20 parts of thionyl chloride. The resultant reaction mixture is heated on a steam bath for about 2 hours, then the solvent and excess of thionyl chloride are removed by distillation to afford {[(2,2,2-trichloroethoxy)carbonyl]amino} acetyl chloride represented by the following formula

reactant | N-[(2,2,2-trichloroethoxy)carbonyl]glycine | ClC(COC(=O)NCC(=O)O)(Cl)Cl | C5H6Cl3NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {[(2,2,2-trichloroethoxy)carbonyl]amino} acetyl chloride | ClC(COC(=O)NCC(=O)Cl)(Cl)Cl | C5H5Cl4NO3
